US06187938B1
Cyclododecyloxycarbonylpentylammonium cyclododecyloxycarbonylpentylcarbamate
6-aminohexanoic acid hydrochloride (0.1 mol) was treated with thionyl chloride (0.2 mol) at 40° C. until the mixture became homogeneous. The excess thionyl chloride was then removed under reduced pressure, a solution of cyclododecanol (0.1 mol) in dry dimethyl formamide (100 ml) was added to the residue, and the resultant mixture was heated at 90%. After 1 hour at this temperature, the solvent was evaporated under reduced pressure, the residue was dried, and by-product hydrogen chloride removed. The crude compound was dissolved in water, triethyl amine (0.15 mol) was added to the solution, and the resultant mixture was extracted with diethyl ether. The ethereal phase was dried over anhydrous Na2SO4, solvent evaporated, and the crude product was allowed to stir in a CO2 atmosphere for 1 hour. Traces of triethyl amine were removed upon standing over a vessel containing sulfuric acid under vacuum, and the product crystallised from toluene.

reactant | 6-aminohexanoic acid hydrochloride | 0.1 mol | Cl.NCCCCCC(=O)O
reactant | thionyl chloride | 0.2 mol | S(=O)(Cl)Cl | Cl2OS
reactant | cyclododecanol | 0.1 mol | C1(CCCCCCCCCCC1)O | C12H24O
reactant | triethyl amine | 0.15 mol | C(C)N(CC)CC | C6H15N
reactant | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | Cyclododecyloxycarbonylpentylammonium cyclododecyloxycarbonylpentylcarbamate | C1(CCCCCCCCCCC1)OC(=O)CCCCCNC([O-])=O.C1(CCCCCCCCCCC1)OC(=O)CCCCC[NH3+] | InChI=1S/C19H35NO4.C18H35NO2/c21-18(15-11-8-12-16-20-19(22)23)24-17-13-9-6-4-2-1-3-5-7-10-14-17;19-16-12-8-11-15-18(20)21-17-13-9-6-4-2-1-3-5-7-10-14-17/h17,20H,1-16H2,(H,22,23);17H,1-16,19H2
